US07312241B2
A suspension of (3-methoxy-4-nitro-phenyl)-(3,4,5-trimethoxy-phenyl)-methanol (2.1 g, 6.1 mmol) and MnO2 (6.0 g, 69 mmol) in CH2Cl2 (100 mL) was stirred at room temperature for 2 days. The mixture was filtered through Celite and the filtrate was concentrated. The crude product was purified by flash chromatography (silica gel, Hexane:EtOAc 7:3) to afford (3-methoxy-4-nitro-phenyl)-(3,4,5-trimethoxy-phenyl)-methanone (1.0 g, 48%): 1H NMR (CDCl3) δ 7.90 (d, J=8 Hz, 1H), 7.50 (d, J=0 Hz, 1H), 7.37 (d, J=6 Hz, 1H), 7.05 (s, 2H), 4.02 (s, 3H), 3.96 (s, 3H), 3.88 (s, 6H).

reactant | (3-methoxy-4-nitro-phenyl)-(3,4,5-trimethoxy-phenyl)-methanol | 6.1 mmol, 2.1 g | COC=1C=C(C=CC1[N+](=O)[O-])C(O)C1=CC(=C(C(=C1)OC)OC)OC | C17H19NO7
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 69 mmol, 6.0 g | O=[Mn]=O
product | (3-methoxy-4-nitro-phenyl)-(3,4,5-trimethoxy-phenyl)-methanone | 1.0 g, 48% | COC=1C=C(C=CC1[N+](=O)[O-])C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C17H17NO7
